data/specific_train_final.csv
"[CH3:11][CH:6]([CH:7]([CH:8]=[O:9])[OH:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:11][CH:6]([CH:7]([CH:8]=[O:9])[OH:10])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"[H:20][CH:21](CCl)Cl.[OH:10]>>[H:20][OH:10].C([CH:21]Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC12C=CC(C(C1O)OO2)[O:21][O:20][O].[N+](=O)[O-]>>CC12C=CC(C(C1O)OO2)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(CO[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CC(C)(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]O[O].CC(=CC(=O)[O:10])CO[N+](=O)[O-]>>[H:20][O:10]C(=O)C=C(C)CO[N+](=O)[O-].[O:21]O[O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(=O)[O:20][O:21][O]>>CCCC(=O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCC(CC=O)O[O:10]>>[H:20][O:10]OC(CC)CC=O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1=CC(C2C(C1OO2)O)O[O:20].[N:10]=O>>C1=CC(C2C(C1OO2)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(CC2C1CCC(C(CCC2=C)OO[O:20][N+:21](=O)[O-])(C)O)C>>CC1(CC2C1CCC(C(CCC2=C)OO[O:20])(C)O)C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=CCCl)CO[O:20].[N:10]=O>>CC(=CCCl)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC(=O)[O:20][O:21]OO>>CCCCC(=O)[O:20].OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:4][CH:3]([CH3:5])[O:2][O:1].[N+:7](=[O:6])([O-:8])[O:9]>>[CH3:4][CH:3]([CH3:5])[O:2][O:1][O:9][N+:7](=[O:6])[O-:8] 1-1,9; 9-1,9",Room Temperature,Termination,recombine
"CC1=CCCC(C2CC(C2CC1)(C)C)(CO)[O:20][O:21][O].[N+](=O)[O-]>>CC1=CCCC(C2CC(C2CC1)(C)C)(CO)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(CCO)O[O:20].[N:10]=O>>CC(C)(CCO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)[CH:10]C(C1(C(O1)C=O)C)O.[O:20][O]>>CC(=O)[CH:10](C(C1(C(O1)C=O)C)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(OC)[O:20][O:21]OO)O>>CC(C([O:20])OC)O.OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C([O:20][O:21][O])(Cl)Cl)Cl>>C(C([O:20])(Cl)Cl)Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:7][C:6]([CH2:8][OH:9])([CH:10]=[O:11])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:7][C:6]([CH2:8][OH:9])([CH:10]=[O:11])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[H:14][O:13][O:12][O:11].[CH3:1][CH2:2][CH2:3][CH:4]([O:5])[O:6][CH2:7][CH:8]([CH3:10])[OH:9]>>[H:14][O:13].[CH3:1][CH2:2][CH2:3][CH:4]([O:5])[O:6][CH2:7][CH:8]([CH3:10])[OH:9].[O:11][O:12] 12,13-13; 12,13-12",Room Temperature,Initiation,homolyze
"CCCCCCCC(CC)[O:20][O:21]N=O>>CCCCCCCC(CC)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)(CO[O:10])O[N+](=O)[O-]>>[H:20][O:10]OCC(C)(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[C:20]1(C=C(C2C([CH:21]1O)(O2)C)C)[O:10]>>CC[C:20](=[O:10])C=C(C1C(O1)([CH:21]O)C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC[C:20]1=[C:21](C=C(C(C1O)O[O:10])C)O>>CC[C:20]12C(C(C(=C[C:21]1O)C)O[O:10]2)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCCCCCCC(CC)O[O:20].[N+](=O)([O-])[O:10]>>CCCCCCCCC(CC)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:11][CH2:10][CH:8]([CH3:9])[CH:6]([CH3:7])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:11][CH2:10][CH:8]([CH3:9])[CH:6]([CH3:7])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCC(C(C)O[O:10])O>>[H:20][O:10]OC(C)C(CCC)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(C)(C)O)[O:20][O:21][O]>>CC(C(C)(C)O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(CC2C1CCC(C(CCC2=C)O[N+](=O)[O-])(C)O[O:20])C.[N+](=O)([O-])[O:10]>>CC1(CC2C1CCC(C(CCC2=C)O[N+](=O)[O-])(C)O[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21]1(C=CC(=C([C:22]1O)CC)C)O.[O:10][O]>>[H:20][O:10][O].CCC1=C(C=C[C:21](=[C:22]1O)O)C 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"C[C:20]1=[C:21](C=CC(C1O[N+](=O)[O-])(C)O[O:10])O>>CC12C=C[C:21]([C:20](C1O[N+](=O)[O-])(C)[O:10]O2)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:1][C:2](=[CH2:7])[C:3](=[O:6])[O:4][O:5][N:8]=[O:9]>>[CH3:1][C:2](=[CH2:7])[C:3](=[O:6])[O:4].[O:5][N:8]=[O:9] 4,5-4;4,5-5",Room Temperature,Initiation,homolyze
"C(O[O:20])(Cl)Cl.[N:10]=O>>C(O[O:20][N:10]=O)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
